US07507733B2
This compound was made in analogy to example 2, step A] from cyclopropylcarbamidine hydrochloride (3 g) and 3-ethoxyacrylonitrile (2.5 mL) to give 2-isopropyl-pyrimidin-4-ylamine (1.36 g) as a light yellow foam. MS (ESI): 138.1 (MH+).

reactant | cyclopropylcarbamidine hydrochloride | 3 g | C1CC1C(=N)N.Cl
reactant | 3-ethoxyacrylonitrile | 2.5 mL | C(C)OC=CC#N | C5H7NO
product | 2-isopropyl-pyrimidin-4-ylamine | 1.36 g | C(C)(C)C1=NC=CC(=N1)N | C7H11N3
